US08193187B2
Methyl 6-bromo-3-[(2-ethoxycarbonyl)propan-2-yl]amino-2-nitrobenzoate (Reference Compound No. 1-(5))
A mixture of methyl 3-amino-6-bromo-2-nitrobenzoate (Reference Compound No. 1-(4), 11.6 g, 42.0 mmol), ethyl 2-bromoisobutyrate (60.4 mL, 412 mmol), potassium iodide (7.76 g, 46.2 mmol) and cesium carbonate (56.1 g, 172 mmol) was stirred at 85° C. for 4 days. After cooling down, ethyl acetate (500 mL) and water (500 mL) were added thereto, the mixture was partitioned, and then the water layer was extracted with ethyl acetate (300 mL). The organic layer was combined, washed with water (1 L, twice) and saturated brine (1 L) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (5.08 g) as an orange oil. (Yield 31%)

reactant | methyl 3-amino-6-bromo-2-nitrobenzoate | NC=1C(=C(C(=O)OC)C(=CC1)Br)[N+](=O)[O-] | C8H7BrN2O4
reactant | ethyl 2-bromoisobutyrate | 412 mmol, 60.4 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | potassium iodide | 46.2 mmol, 7.76 g | [I-].[K+]
reactant | cesium carbonate | 172 mmol, 56.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 500 mL | O | H2O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 6-bromo-3-[(2-ethoxycarbonyl)propan-2-yl]amino-2-nitrobenzoate | 5.08 g, Yield 31% | BrC1=CC=C(C(=C1C(=O)OC)[N+](=O)[O-])NC(C)CC(=O)OCC | C14H17BrN2O6
